### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Sites): global sections functor on sheaves

### PR DESCRIPTION
**Pull request by peabrainiac**
This PR defines `Sheaf.Γ : Sheaf J A ⥤ A` as the functor taking each sheaf to the limit of its underlying presheaf whenever possible, i.e. whenever `A` has sufficiently large limits, and shows that this agrees with several other common definitions when they are defined, like evaluation of sheaves on a terminal object. See [Zulip](https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/global.20sections.20functor) for the discussion that lead to this approach.

---

My goal with this PR is to work towards the cohesive structure of sheaves on cohesive sites; I have already defined local sites [here](https://github.com/peabrainiac/lean-orbifolds/blob/main/Orbifolds/ForMathlib/LocalSite.lean) as a stepping stone and will PR them too shortly.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by peabrainiac** [comment]
The main thing I am unsure about here is where to place the prerequisite lemmas that do not involve `Sheaf.Γ` already; for `limNatIsoSectionsFunctor ` and `sheafSectionsNatIsoEvaluation` I think I have found good homes, and `terminalObjIso` could be placed in `Limits.FunctorCategory.Shapes.Products` too with only a minor increase in imports, but for `sectionsFunctorNatIsoCoyoneda` I have not been able to find a good home other than the global sections file itself. I suppose we could just leave it there, but maybe someone else has a better idea.

File: Mathlib/CategoryTheory/Sites/Sheaf.lean [hunk 1]
```diff
@@ -345,6 +345,11 @@ def sheafToPresheaf : Sheaf J A ⥤ Cᵒᵖ ⥤ A where
 /-- The sections of a sheaf (i.e. evaluation as a presheaf on `C`). -/
 abbrev sheafSections : Cᵒᵖ ⥤ Sheaf J A ⥤ A := (sheafToPresheaf J A).flip
 
+/-- The sheaf sections functor on `X` is given by evaluation of presheaves on `X`. -/
+def sheafSectionsNatIsoEvaluation {X : C} :
+    (sheafSections J A).obj (op X) ≅ sheafToPresheaf J A ⋙ (evaluation _ _).obj (op X) :=
+  NatIso.ofComponents fun _ ↦ eqToIso rfl
```
Comment (peabrainiac) [inline Mathlib/CategoryTheory/Sites/Sheaf.lean:351]: Oh, also this seems like just a general lemma about `Functor.flip` - do we want that in its general form? Or do we maybe even have it already, and I just couldn't find it?

File: Mathlib/CategoryTheory/Sites/GlobalSections.lean [hunk 2]
```diff
@@ -0,0 +1,95 @@
...
+/-- For sheaves of types, the global sections functor is isomorphic to the sections functor
+on presheaves. -/
+noncomputable def Sheaf.ΓNatIsoSectionsFunctor :
+    Γ J (Type max u w) ≅ sheafToPresheaf J _ ⋙ Functor.sectionsFunctor _ :=
+  isoWhiskerLeft _ <| Types.limNatIsoSectionsFunctor
+
+/-- For sheaves of types, the global sections functor is isomorphic to the covariant hom
+functor of the terminal sheaf. -/
+noncomputable def Sheaf.ΓNatIsoCoyonedaObj :
+    Γ J (Type max u w) ≅ coyoneda.obj (op (⊤_ _)) := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/GlobalSections.lean:87]: This should be first stated as an equivalence of types for each sheaf (with more general universes, the LHS and RHS will be in different universes), followed by a naturality lemma, and then it can be stated as a natural isomorphism when the universes match.

File: Mathlib/CategoryTheory/Sites/GlobalSections.lean [hunk 3]
```diff
@@ -0,0 +1,95 @@
...
+
+variable {C : Type u} [Category.{v} C] (J : GrothendieckTopology C)
+  (A : Type u₂) [Category.{v₂} A]
+
+/-- The global sections functor `Γ`, taking sheaves valued in `A` to its global sections in `A`.
+It is given here as a limit instead of evaluation on a terminal object of `C`; this has the
+advantage of not requiring `C` to have a terminal object, but the disadvantage of requiring `A`
+to have limits of shape `Cᵒᵖ`. -/
+noncomputable def Sheaf.Γ [HasLimitsOfShape Cᵒᵖ A] : Sheaf J A ⥤ A :=
+  sheafToPresheaf J A ⋙ lim
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/GlobalSections.lean:43]: Unfortunately, I doubt that the interesting cases in algebraic geometry where there is a global section functor but no terminal object are covered by these assumptions. Sites in algebraic geometry tend to be large, and we may have a small family of objects which cover the terminal object even though we may not have limits indexed by `Cᵒᵖ`. It means that we would probably have to refactor this definition in the future. This is part of the reason why I had suggested another design where we define the global sections by taking a right adjoint of the constant sheaf functor. I have just drafted the following (which also takes advantage of the already known results about the constant sheaf functor, see the file `Sites.ConstantSheaf`), and it does not seem to be difficult to obtain the same results which you obtained with the other definition:

```lean
variable [HasWeakSheafify J A]

abbrev HasGlobalSectionsFunctor := (constantSheaf J A).IsLeftAdjoint

instance hasGlobalSectionsFunctor_of_hasTerminal [HasTerminal C] :
    HasGlobalSectionsFunctor J A :=
  ⟨_, ⟨constantSheafAdj J A terminalIsTerminal⟩⟩

section

variable [HasGlobalSectionsFunctor J A]

noncomputable def Sheaf.Γ : Sheaf J A ⥤ A :=
  (constantSheaf J A).rightAdjoint

/-- The constant sheaf functor is left-adjoint to the global sections functor when both exist. -/
noncomputable def constantSheafΓAdj :
    constantSheaf J A ⊣ Γ J A :=
  Adjunction.ofIsLeftAdjoint (constantSheaf J A)

instance : (constantSheaf J A).IsLeftAdjoint :=
  ⟨Γ J A, ⟨constantSheafΓAdj J A⟩⟩

instance : (Γ J A).IsRightAdjoint :=
  ⟨constantSheaf J A, ⟨constantSheafΓAdj J A⟩⟩

variable {J A}

noncomputable def Sheaf.ΓHomEquiv {X : A} {F : Sheaf J A} :
    ((Functor.const _).obj X ⟶ F.val) ≃ (X ⟶ (Γ J A).obj F) :=
  ((sheafificationAdjunction J A).homEquiv _ _).symm.trans
    ((constantSheafΓAdj J A).homEquiv _ _)

@[simps pt]
noncomputable def Sheaf.coneΓ (F : Sheaf J A) : Cone F.val where
  pt := (Γ J A).obj F
  π := ΓHomEquiv.symm (𝟙 _)

def Sheaf.isLimitConeΓ (F : Sheaf J A) : IsLimit F.coneΓ := by
  -- should be easy from `ΓHomEquiv` and a few naturality lemmas
  sorry

noncomputable def Sheaf.Γres (F : Sheaf J A) (U : Cᵒᵖ) :
  (Γ J A).obj F ⟶ F.val.obj U := F.coneΓ.π.app U

@[reassoc (attr := simp)]
lemma Sheaf.Γres_map (F : Sheaf J A) {V U : Cᵒᵖ} (f : U ⟶ V) :
    F.Γres U ≫ F.val.map f = F.Γres V :=
  F.coneΓ.w f

@[simp]
lemma Sheaf.coneΓ_π_app (F : Sheaf J A) (U : Cᵒᵖ) : F.coneΓ.π.app U = F.Γres U := rfl

noncomputable def Sheaf.ΓNatIsoSheafSections {T : C}
    (hT : IsTerminal T) : Γ J A ≅ (sheafSections J A).obj (op T) :=
  Adjunction.rightAdjointUniq (constantSheafΓAdj J A) (constantSheafAdj J A hT)

end
```

File: Mathlib/CategoryTheory/Sites/Sheaf.lean (hunk 1 above)
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Sheaf.lean:351]:
```suggestion
@[simps!]
def sheafSectionsNatIsoEvaluation {X : C} :
    (sheafSections J A).obj (op X) ≅ sheafToPresheaf J A ⋙ (evaluation _ _).obj (op X) :=
  NatIso.ofComponents (fun _ ↦ Iso.refl _)
```

**Comment by peabrainiac** [comment]
Thanks for your review and explanation of why this extra generality is actually important / useful. I've rewritten this in terms of `HasGlobalSectionsFunctor` now like you suggested, and also added `Sheaf.ΓNatIsoLim` to show that this is equivalent to the previous definition when `A` has the right limits. I didn't go through the route via `Sheaf.ΓHomEquiv` that you outlined yet, but can also try implementing that tomorrow (I just wanted to get this refactor pushed first).

One slightly annoying thing I noticed is that with this new definition, `Sheaf.Γ` now requires `HasWeakSheafify`, which [`instHasSheafifyOfHasFiniteLimits`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Sites/LeftExact.html#CategoryTheory.instHasSheafifyOfHasFiniteLimits) only seems to provide for `Type max u v` but not higher universe levels like `Type max u v w`; at least I couldn't get it to work with the latter, and so had to remove `w` from the last few lemmas in the file. In the cases I am most interested in `u` and `v` are both 0, so this is quite a loss of generality. This does seem more like an issue with the instance than a mathematical issue to me though, so hopefully it can be resolved with another PR.

File: Mathlib/CategoryTheory/Sites/GlobalSections.lean (hunk 2 above)
Comment (peabrainiac) [reply Mathlib/CategoryTheory/Sites/GlobalSections.lean]: > This should be first stated as an equivalence of types for each sheaf (with more general universes, the LHS and RHS will be in different universes), followed by a naturality lemma, and then it can be stated as a natural isomorphism when the universes match.

I'm unsure about what exactly you're suggesting - should all the natural isomorphisms here be stated in terms of isomorphisms/equivalences first, or is there some special reason to do it specifically with this one? I would have thought that isomorphisms involving `Γ` are particularly bad candidates for a more step-by-step API like this, since `Γ` is now defined simply as a right-adjoint and not really constructed anyways.

Comment (joelriou) [reply Mathlib/CategoryTheory/Sites/GlobalSections.lean]: I am referring only to natural "isomorphisms" between functors to types, where the target types may live in different universes, which happens here when universes are left completely general.

File: Mathlib/CategoryTheory/Sites/GlobalSections.lean [hunk 4]
```diff
@@ -0,0 +1,116 @@
...
+    Γ J A ≅ sheafToPresheaf J A ⋙ lim :=
+  (constantSheafΓAdj J A).rightAdjointUniq (constLimAdj.comp (sheafificationAdjunction J A))
+
+-- this is currently needed to obtain the instance `HasSheafify J (Type max u v)`.
+attribute [local instance] CategoryTheory.Types.instConcreteCategory
+attribute [local instance] CategoryTheory.Types.instFunLike
+
+/-- For functors `F : C ⥤ Type _`, `F.sections` is naturally isomorphic to the type `⊤_ _ ⟶ F`
+of natural transformations from the terminal functor to `F`. -/
+noncomputable def sectionsFunctorNatIsoCoyoneda :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/GlobalSections.lean:88]: This is not directly related to sections of sheaves as this does not involve a Grothendieck topology. This should be moved in another file, and as I suggested, it should be first stated as a bijection (+ a naturality statement):
```lean
@[simps apply_app]
def Functor.sectionsEquivHom (F : C ⥤ Type w) (X : Type w) [Unique X] :
    F.sections ≃ ((Functor.const _).obj X ⟶ F) where
  toFun s :=
    { app j x := s.1 j
      naturality _ _ _ := by ext x; simp }
  invFun τ := ⟨fun j ↦ τ.app _ (default : X), fun φ ↦ (congr_fun (τ.naturality φ) _).symm⟩
  left_inv s := rfl
  right_inv τ := by
    ext j (x : X)
    obtain rfl := Subsingleton.elim x default
    rfl
```
The sheaf version would be:
```lean
variable {J} in
noncomputable def Sheaf.ΓObjEquiv [HasWeakSheafify J (Type w)]
    [HasGlobalSectionsFunctor J (Type w)] (F : Sheaf J (Type w)) :
      (Γ J (Type w)).obj F ≃ F.1.sections :=
  (Equiv.trans (by exact (Equiv.funUnique PUnit _).symm)
    Sheaf.ΓHomEquiv.symm).trans (Functor.sectionsEquivHom F.1 PUnit).symm
```

**Comment by peabrainiac** [comment]
That should be the last of the requested changes implemented now, I think.

File: Mathlib/CategoryTheory/Sites/GlobalSections.lean [hunk 5]
```diff
@@ -0,0 +1,214 @@
...
+-/
+import Mathlib.CategoryTheory.Sites.ConstantSheaf
+
+/-!
+# Global sections of sheaves
+In this file we define a global sections functor `Sheaf.Γ : Sheaf J A ⥤ A` and show that it
+is isomorphic to several other constructions when they exist, most notably evaluation of sheaves
+on a terminal object and `Functor.sectionsFunctor`.
+
+## Main definitions / results
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/GlobalSections.lean:14]: Could you update this section as the names do not necessarily match the definitions?

Comment (peabrainiac) [reply Mathlib/CategoryTheory/Sites/GlobalSections.lean:14]: I think `ΓNatIsoCoyonedaObj` was the only mismatch; let me know if there's more. I've also added `isLimitConeΓ` and `Γres` to that section now.

File: Mathlib/CategoryTheory/Sites/GlobalSections.lean [hunk 6]
```diff
@@ -0,0 +1,216 @@
+/-
+Copyright (c) 2025 Ben Eltschig. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Ben Eltschig
+-/
+import Mathlib.CategoryTheory.Sites.ConstantSheaf
+
+/-!
+# Global sections of sheaves
+In this file we define a global sections functor `Sheaf.Γ : Sheaf J A ⥤ A` and show that it
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/GlobalSections.lean:10]:
```suggestion

In this file we define a global sections functor `Sheaf.Γ : Sheaf J A ⥤ A` and show that it
```

File: Mathlib/CategoryTheory/Yoneda.lean [hunk 7]
```diff
@@ -797,6 +797,44 @@ lemma yonedaMap_app_apply {Y : C} {X : Cᵒᵖ} (f : X.unop ⟶ Y) :
...
+    rw [Unique.eq_default x]
+
+lemma Functor.sectionsEquivHom_naturality {F G : C ⥤ Type u₂} (f : F ⟶ G) (X : Type u₂) [Unique X]
+    (x : F.sections) :
+    (G.sectionsEquivHom X) ((sectionsFunctor C).map f x) = (F.sectionsEquivHom X) x ≫ f := by
+  rfl
+
+lemma Functor.sectionsEquivHom_naturality_symm {F G : C ⥤ Type u₂} (f : F ⟶ G) (X : Type u₂)
+    [Unique X] (τ : (const C).obj X ⟶ F) : (G.sectionsEquivHom X).symm (τ ≫ f) =
+    (sectionsFunctor C).map f ((F.sectionsEquivHom X).symm τ) := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Yoneda.lean:826]:
```suggestion
    [Unique X] (τ : (const C).obj X ⟶ F) :
    (G.sectionsEquivHom X).symm (τ ≫ f) =
      (sectionsFunctor C).map f ((F.sectionsEquivHom X).symm τ) := by
```

File: Mathlib/CategoryTheory/Yoneda.lean [hunk 8]
```diff
@@ -797,6 +797,44 @@ lemma yonedaMap_app_apply {Y : C} {X : Cᵒᵖ} (f : X.unop ⟶ Y) :
...
+  rfl
+
+/-- A natural isomorphism between the sections functor `(C ⥤ Type _) ⥤ Type _` and the co-Yoneda
+embedding of a terminal functor, specifically a constant functor on a given singleton type `X`. -/
+@[simps!]
+noncomputable def sectionsFunctorNatIsoCoyoneda (X : Type max u₁ u₂) [Unique X] :
+    Functor.sectionsFunctor.{v₁,max u₁ u₂} C ≅ coyoneda.obj (op ((Functor.const C).obj X)) :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Yoneda.lean:833]:
```suggestion
    Functor.sectionsFunctor.{v₁, max u₁ u₂} C ≅ coyoneda.obj (op ((Functor.const C).obj X)) :=
```

File: Mathlib/CategoryTheory/Sites/GlobalSections.lean [hunk 9]
```diff
@@ -0,0 +1,216 @@
...
+
+/-- Every site `C` admits a global sections functor for `A`-valued sheaves when `A` has limits of
+shape `Cᵒᵖ`. -/
+instance hasGlobalSectionsFunctor_of_hasLimitsOfShape [HasLimitsOfShape Cᵒᵖ A] :
+    HasGlobalSectionsFunctor J A :=
+  ⟨sheafToPresheaf J A ⋙ lim, ⟨constLimAdj.comp (sheafificationAdjunction J A)⟩⟩
+
+/-- Global sections of sheaves are naturally isomorphic to the limits of the underlying presheaves.
+Note that while `HasLimitsOfShape Cᵒᵖ A` is needed here to talk about `lim` as a functor, global
+sections are always limits, it just has to be stated a little bit more carefully. -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/GlobalSections.lean:79]:
```suggestion
sections are always limits, it just has to be stated a little bit more carefully,
see `Sheaf.isLimitConeΓ`. -/
```

File: Mathlib/CategoryTheory/Sites/GlobalSections.lean [hunk 10]
```diff
@@ -0,0 +1,216 @@
...
+
+@[reassoc (attr := simp)]
+lemma Sheaf.Γres_map [HasGlobalSectionsFunctor J A] (F : Sheaf J A) {V U : Cᵒᵖ} (f : U ⟶ V) :
+    F.Γres U ≫ F.val.map f = F.Γres V :=
+  F.coneΓ.w f
+
+@[simp]
+lemma Sheaf.coneΓ_π_app [HasGlobalSectionsFunctor J A] (F : Sheaf J A) (U : Cᵒᵖ) :
+    F.coneΓ.π.app U = F.Γres U := rfl
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/GlobalSections.lean:153]: I think this PR is very close to being merged. Could you just add a lemma `Sheaf.Γres_naturality` expressing the naturality of `Γres` in `F`, and then define a natural transformation `Sheaf.natTransΓres : Γ J A ⟶ (sheafSections J A).obj U`?

Comment (peabrainiac) [reply Mathlib/CategoryTheory/Sites/GlobalSections.lean:164]: I've added it as `natTransΓres` now, but I'm curious - what does the naming convention have to say about whether it should be `natTransΓres` or `ΓresNatTrans`? The latter is what I would have expected it to be. Which reminds me, I'm also a bit confused about why `Γres` is not called `ΓRes` when definitions are usually in camelCase and `Res` is (arguably) the second word in that variable name.

**Comment by peabrainiac** [comment]
> One slightly annoying thing I noticed is that with this new definition, `Sheaf.Γ` now requires `HasWeakSheafify`, which [`instHasSheafifyOfHasFiniteLimits`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Sites/LeftExact.html#CategoryTheory.instHasSheafifyOfHasFiniteLimits) only seems to provide for `Type max u v` but not higher universe levels like `Type max u v w`; at least I couldn't get it to work with the latter, and so had to remove `w` from the last few lemmas in the file. In the cases I am most interested in `u` and `v` are both 0, so this is quite a loss of generality. This does seem more like an issue with the instance than a mathematical issue to me though, so hopefully it can be resolved with another PR.

While applying the latest batch of suggestions I have also taken the opportunity to add a TODO note about this now.

File: Mathlib/CategoryTheory/Sites/GlobalSections.lean (hunk 10 above)
Comment (peabrainiac) [reply Mathlib/CategoryTheory/Sites/GlobalSections.lean:169]: Changed it now.

File: Mathlib/CategoryTheory/Sites/GlobalSections.lean [hunk 11]
```diff
@@ -0,0 +1,240 @@
...
+      (Functor.sectionsFunctor _).map f.val ((ΓObjEquivSections J F) x) := by
+  dsimp [ΓObjEquivSections]
+  exact (congr_arg _ (ΓHomEquiv_naturality_right_symm _ _)).trans
+    (Functor.sectionsEquivHom_naturality_symm _ _ _)
+
+lemma Sheaf.ΓObjEquivSections_naturality_symm [HasWeakSheafify J (Type w)]
+    [HasGlobalSectionsFunctor J (Type w)] {F G : Sheaf J (Type w)} (f : F ⟶ G)
+    (x : F.val.sections) : (ΓObjEquivSections J G).symm ((Functor.sectionsFunctor _).map f.val x) =
+      (Γ J _).map f ((ΓObjEquivSections J F).symm x) :=
+  (congr_fun (ΓHomEquiv_naturality_right (F.val.sectionsEquivHom _ x) f) _)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/GlobalSections.lean:203]:
```suggestion
  congr_fun (ΓHomEquiv_naturality_right (F.val.sectionsEquivHom _ x) f) _
```

File: Mathlib/CategoryTheory/Sites/GlobalSections.lean [hunk 12]
```diff
@@ -0,0 +1,240 @@
...
+    (ΓObjEquivHom J G X).symm (x ≫ f) = (Γ J _).map f ((ΓObjEquivHom J F X).symm x) :=
+  congr_fun ((constantSheafΓAdj J _).homEquiv_naturality_right x f) default
+
+/-- For sheaves of types, the global sections functor is isomorphic to the covariant hom
+functor of the terminal sheaf. -/
+noncomputable def Sheaf.ΓNatIsoCoyoneda (X : Type max u v) [Unique X] :
+    Γ J (Type max u v) ≅ coyoneda.obj (op ((constantSheaf J _).obj X)) := by
+  exact NatIso.ofComponents (fun F ↦ (F.ΓObjEquivHom J X).toIso) fun f ↦ by
+    ext x
+    exact ΓObjEquivHom_naturality J X f x
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/GlobalSections.lean:238]:
```suggestion
noncomputable def Sheaf.ΓNatIsoCoyoneda (X : Type max u v) [Unique X] :
    Γ J (Type max u v) ≅ coyoneda.obj (op ((constantSheaf J _).obj X)) :=
  NatIso.ofComponents (fun F ↦ (F.ΓObjEquivHom J X).toIso) fun f ↦ by
    ext x
    exact ΓObjEquivHom_naturality J X f x
```
